US06303816B1
2-(4-Bromophenyl)propylamine hydrochloride
To a −15° C. solution of 50.0 g (251.2 mmol) of 4-bromoacetophenone and 49.0 g (251.2 mmol) of tosylmethyl isocyanide in 800 mL of dry dimethoxyethane was added a hot solution of 50.7 g (452.2 mmol) of potassium tert-butoxide in 230 mL of tert-butyl alcohol dropwise at a rate to maintain the temperature below 0° C. The reaction was stirred at −5° C. for 45 min after addition was complete. The cooling bath was removed and the reaction stirred for 2.5 h more. The mixture was concentrated in vacuo to a volume of 200 mL and diluted with 500 mL of water. The aqueous mixture was extracted four times with diethyl ether, and the combined organic portions were dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in 55 mL of tetrahydro-furan and heated to reflux. To the refluxing solution was added slowly dropwise 27.6 mL (276.3 mmol) of 10.0 M borane-dimethylsulfide complex. Refluxing was continued for 20 min after addition was complete. The mixture was cooled to ambient temperature and methanol saturated with hydrogen chloride was added very slowly until pH 2 was achieved. The mixture was concentrated in vacuo and the residue was dissolved in methanol and concentrated in vacuo again. The solid residue was suspended in 125 mL of ethanol, filtered, rinsed with ethanol then diethyl ether. The white solid was dried in vacuo to afford 25.4 g (40%) of the title compound. The filtrate was concentrated in vacuo and suspended in diethyl ether. The solid was filtered, rinsed with diethyl ether and dried in vacuo to afford another 15.6 g (25 %) of the title compound.

reactant | 4-bromoacetophenone | 251.2 mmol, 50.0 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | tosylmethyl isocyanide | 251.2 mmol, 49.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium tert-butoxide | 452.2 mmol, 50.7 g | CC(C)([O-])C.[K+]
reactant | hydrogen chloride | Cl | ClH
reactant | dimethoxyethane | 800 mL | C(OC)COC | C4H10O2
solvent | tert-butyl alcohol | 230 mL | C(C)(C)(C)O | C4H10O
solvent | methanol | CO | CH4O
product | 2-(4-Bromophenyl)propylamine hydrochloride | 25.4 g, 40% | Cl.BrC1=CC=C(C=C1)C(CN)C | InChI=1S/C9H12BrN.ClH/c1-7(6-11)8-2-4-9(10)5-3-8;/h2-5,7H,6,11H2,1H3;1H
